US04302469
Preparation of ethyl (1,4-benzodioxan-2-yl)acetimidate hydrochloride
17.5 g (0.10 mole) 2-cyanomethyl-1,4-benzodioxane, prepared as described by Augstein, et al, J. Med. Chem. 8: 446 (1965), was dissolved in a mixture containing 7 g ethanol and 50 ml diethyl ether. 4.5 g (0.15 moles) of dry HCl was bubbled though the mixture, which was then capped. The mixture was allowed to stand at 5° C. for 4 days, followed by 3 days at room temperature. The crude product imidate hydrochloride (IV) precipitated out and was harvested by filtration, and washed with 100 ml ether, followed by 3×100 ml portions of methylene chloride. The solid was then purified by thin layer chromatography using 10% methanol in chloroform as a developing solvent. The product has an Rf value of 0.7-0.8; starting material moves farther in this solvent system, and none was present in the crude product. The yield of product was 15.3 g, as the hydrochloride, or 59% yield.

reactant | 2-cyanomethyl-1,4-benzodioxane | 0.10 mole, 17.5 g | C(#N)CC1COC2=C(O1)C=CC=C2 | C10H9NO2
reactant | ethanol | 7 g | C(C)O | C2H6O
reactant | HCl | 0.15 moles, 4.5 g | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | ethyl (1,4-benzodioxan-2-yl)acetimidate hydrochloride | 59% yield | Cl.O1C(COC2=C1C=CC=C2)CC(OCC)=N | InChI=1S/C12H15NO3.ClH/c1-2-14-12(13)7-9-8-15-10-5-3-4-6-11(10)16-9;/h3-6,9,13H,2,7-8H2,1H3;1H
